US06774130B2
A solution of (R)-1-(5-acetoxyhexyl)-3-(N-biotinyl-6-aminohexyl)-7-methylxanthine (110 mg) in methanol (10 ml) was treated with one drop of concentrated hydrochloric acid solution. After stirring at room temperature for 14 hours, the mixture was treated with 2M solution of ammonia in methanol (3 ml) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 20% methanol/dichloromethane to provide (R)-3-(N-biotinyl-6-aminohexyl)-1-(5-hydroxyhexyl)-7-methylxanthine (CT12460) (66 mg).

reactant | (R)-1-(5-acetoxyhexyl)-3-(N-biotinyl-6-aminohexyl)-7-methylxanthine | 110 mg | C(C)(=O)OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)CCCCCCNC(CCCC[C@H]1SC[C@@H]2NC(=O)N[C@H]12)=O)C | C30H47N7O6S
reactant | ammonia | N | H3N
solvent | methanol | 10 ml | CO | CH4O
catalyst | hydrochloric acid | one drop | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | (R)-3-(N-biotinyl-6-aminohexyl)-1-(5-hydroxyhexyl)-7-methylxanthine | 66 mg | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NCCCCCCN1C(N(C(C=2N(C=NC12)C)=O)CCCC[C@@H](C)O)=O | C28H45N7O5S
